US05380921
(i) N-{N-[1-benzyloxyphosphoryl-3-(1-naphthyl)propyl]-L-leucyl}-L-tryptophan benzyl ester
A mixture of L-leucyl-L-tryptophan benzyl ester (408 mg) and 3-(1-naphthyl)propionaldehyde (220 mg) in toluene (10 ml) was heated to reflux in a Dean-Stark apparatus for 2 hours. After cooling, dibenzyl phosphite (252 mg) and acetonitrile (10 ml) were added to the mixture and the resulting solution was stirred at 100° C. for 16 hours. After being cooled to room temperature, the mixture was concentrated under reduced pressure. The residue was separated and purified by silica gel chromatography (chloroform:ethyl acetate=5:1) to give two diastereomers of the title compound as colorless oil (a: 58 mg, b: 95 mg).

reactant | L-leucyl-L-tryptophan benzyl ester | 408 mg | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N)CC(C)C)=O)CC1=CNC2=CC=CC=C12)=O | C24H29N3O3
reactant | 3-(1-naphthyl)propionaldehyde | 220 mg | C1(=CC=CC2=CC=CC=C12)CCC=O | C13H12O
reactant | dibenzyl phosphite | 252 mg | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-{N-[1-benzyloxyphosphoryl-3-(1-naphthyl)propyl]-L-leucyl}-L-tryptophan benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(CCC1=CC=CC2=CC=CC=C12)=P(=O)OCC1=CC=CC=C1)CC(C)C)=O)CC1=CNC2=CC=CC=C12)=O | C44H46N3O5P
